US05300655
6-Chloro-3-(5-bromo-3-furoyl)-2-oxindole-1-carboxamide
The experimental procedure used to produce the title compound was adopted from Example 55. A 750 mg (3.93 mmole) portion of 5-bromo-3-furoic acid (prepared according to Amaral, L., et al., J. O. C., 41, 2350 (1976)) was transformed into the acyl imidazole by reaction with 690 mg (4.25 mmole) of 1,1'-carbonyldiimidazole. The intermediate 5-bromo-3-furan-(1-imidazo)carboxamide coupled directly with 689 mg (3.27 mmole) of 6-chloro-2-oxindole-1-carboxamide in the presence of 1.08 g (8.83 mmole) of 4-(N,N-dimethylamino)pyridine to give 500 mg (40% yield) of crude greenish-yellow solid. Recrystallization gave 143 mg (0.37 mmole, 11% yield) of pure title compound as a greenish solid, m.p. 232°-4° C. (acetic acid).

reactant | 5-bromo-3-furoic acid | BrC1=CC(=CO1)C(=O)O | C5H3BrO3
reactant | 1,1'-carbonyldiimidazole | 4.25 mmole, 690 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 6-chloro-2-oxindole-1-carboxamide | 3.27 mmole, 689 mg | ClC1=CC=C2CC(N(C2=C1)C(=O)N)=O | C9H7ClN2O2
catalyst | 4-(N,N-dimethylamino)pyridine | 8.83 mmole, 1.08 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-Chloro-3-(5-bromo-3-furoyl)-2-oxindole-1-carboxamide | 0.37 mmole, 143 mg, 11% yield | ClC1=CC=C2C(C(N(C2=C1)C(=O)N)=O)C(=O)C1=COC(=C1)Br | C14H8BrClN2O4
